* C:\Users\crmar\Documents\AMSD_Projects\Assignment2_sim1.asc
R1 N001 0 15k
R2 N001 N002 10k
I1 0 N001 2m
V1 N002 0 5
R3 N001 0 3k
.tran 100000
.backanno
.end
