* C:\Users\crmar\Documents\AMSD_Projects\Assignment2_sim6.asc
M1 N001 N002 0 0 PMOS
V1 0 N002 3
V2 0 N001 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\crmar\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V1 0 3 0.01 V2 0 3 0.5
.backanno
.end
